US07919518B2
10a) methyl 2-[(1-benzyl-1H-indazol-3-yl)methoxy]-2-methylpropanoate
A suspension of 2-[(1-benzyl-1H-indazol-3-yl)methoxy]-2-methylpropanoic acid (20 g; 0.062 mol) in methanol (300 ml) was treated at 0° C. with gaseous HCl for 4 hours. The mixture was then poured into water (500 ml) and the product was extracted with diethyl ether (3×250 ml). The combined organic phases were washed with 5% sodium bicarbonate solution (2×100 ml) and then with water (50 ml). The solvent was evaporated off under reduced pressure and the crude residue was purified by crystallization from hexane.

reactant | 2-[(1-benzyl-1H-indazol-3-yl)methoxy]-2-methylpropanoic acid | 0.062 mol, 20 g | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)COC(C(=O)O)(C)C | C19H20N2O3
reactant | HCl | Cl | ClH
reactant | water | 500 ml | O | H2O
reactant | methanol | 300 ml | CO | CH4O
product | methyl 2-[(1-benzyl-1H-indazol-3-yl)methoxy]-2-methylpropanoate | C(C1=CC=CC=C1)N1N=C(C2=CC=CC=C12)COC(C(=O)OC)(C)C | C20H22N2O3
